US04888050
B. Methyl 2-(4-(4-amino-2-fluorophenoxy)-2-fluorophenoxy)propanoate
A mixture of methyl 2-(2-fluoro-4-(2-fluoro-4-nitrophenoxy)phenoxy)propanoate (6.5 g, 0.018 mole) in ethanol (150 ml) containing 5 percent palladium on charcoal (0.5 g) as catalyst was subjected to hydrogenation (initial pressure equals 50 psi) on a Parr apparatus. After 19 hours, the excess hydrogen was removed and nitrogen was bubbled through the liquid mixture. This mixture was filtered through celite and the ethanol removed by distillation. A slightly yellow oil weighting 5.8 grams (98 percent) resulted. NMR spectroscopy (1H, 19F) and infrared (I.R.) spectroscopy confirmed the structure as one being consistent with the desired product. It was used directly in the next step without further purification.

reactant | methyl 2-(2-fluoro-4-(2-fluoro-4-nitrophenoxy)phenoxy)propanoate | 0.018 mole, 6.5 g | FC1=C(OC(C(=O)OC)C)C=CC(=C1)OC1=C(C=C(C=C1)[N+](=O)[O-])F | C16H13F2NO6
solvent | ethanol | 150 ml | C(C)O | C2H6O
catalyst | palladium on charcoal | 0.5 g | [Pd] | Pd
product | Methyl 2-(4-(4-amino-2-fluorophenoxy)-2-fluorophenoxy)propanoate | NC1=CC(=C(OC2=CC(=C(OC(C(=O)OC)C)C=C2)F)C=C1)F | C16H15F2NO4
